US04769386
(b) Heptadec-2,4-dien-1-ol
The mixture of compounds from Example 16(a) (0.24 mole) was dissolved in 3 liters of methanol and pyridine p-toluenesulfonic acid (0.012 mole) was added to the mixture, with stirring under argon at room temperature. The progress of the reaction was monitored by thin layer chromatography. When the reaction was complete the solvent was evaporated and the residue flash chromatographed on silica gel eluted with 90:10 hexane:ethyl acetate to give a 3:1 mixture of the resulting trans:cis isomers. Separation was accomplished by careful chromatography on silica gel.

reactant | pyridine p-toluenesulfonic acid | 0.012 mole | C1(=CC=C(C=C1)S(=O)(=O)O)C.N1=CC=CC=C1
reactant | methanol | 3 liters | CO | CH4O
product | Heptadec-2,4-dien-1-ol | C(C=CC=CCCCCCCCCCCCC)O | C17H32O
